* C:\projects\induction_furnace\EE\spice\pump_ac_model.asc
* Generated by LTspice 24.1.4 for Windows.
V1 N001 0 SINE(0 {120*sqrt(2)} 60)
R1 N001 0 40
V2 N003 N005 SINE(0 {120*sqrt(2)} 60)
R2 vout 0 40
D1 N005 N002 RFN10NS6S
R3 N005 0 1Meg
C1 vrect vesr1 1m
D2 0 N005 RFN10NS6S
D3 N004 N002 RFN10NS6S
D4 0 N004 RFN10NS6S
R4 N004 N003 0.2
R5 vrect N002 200m
L1 vrect vout 2µ
C2 vout vesr2 400µ
I1 vout 0 SINE(0 5 50k)
R6 vesr1 0 50m
R7 vesr2 0 10m
.model D D
.lib C:\Users\wdive\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 100m
* Steady state load: ~40 Ohm\nstartup load: ~20 Ohm\n \nRectifer max load at 120VRMS ~10Ohm
.ic V(vrect)=0
* TS15P07G rated for 15A
* 10uH, 1mF --> 1.6kHz corner\n2uH, 500uF --> 5kHz corner
.backanno
.end
